US06080752
3-(2-Propenyl)-2-tetralone
A mixture of 3,4-dihydro-2-hydroxy-3-(2-propenyl)-naphthalene carboxylic acid, methyl ester (46.1 g, crude), dimethyl sulphoxide (132 ml), water (5 ml) and lithium chloride (9.5 g, 226 mmol) was heated at 125° C., with stirring, under argon for 4.5 h. The mixture was cooled and diluted with water (750 ml) and extracted with ethyl acetate (3×1000 ml). The combined extracts were washed with water (1000 ml) and brine (1000 ml), dried (Na2SO4) and evaporated in vacuo to give a brown oil (35.5 g). This was chromatographed on silica eluting with 10% ether-hexane to give the title compound as a brown oil (25.9 g, 74%).

reactant | 3,4-dihydro-2-hydroxy-3-(2-propenyl)-naphthalene carboxylic acid, methyl ester | 46.1 g | OC1=C(C2=CC=CC=C2CC1CC=C)C(=O)OC | C15H16O3
reactant | dimethyl sulphoxide | 132 ml | CS(=O)C | C2H6OS
reactant | lithium chloride | 226 mmol, 9.5 g | [Cl-].[Li+]
solvent | water | 750 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-(2-Propenyl)-2-tetralone | 35.5 g | C(C=C)C1C(CC2=CC=CC=C2C1)=O | C13H14O
